US03976645
Reaction of acrylonitrile with 5-chloro-3-phenyl-3-hydroxyindolin-2-one by a process analogous to that of Example 1 gives 5-chloro-1-(cyanoethyl)-3-hydroxy-3-phenylindolin-2-one. Hydrogenation of the 5-chloro-1-(2-cyanoethyl)-3-hydroxy-3-phenylindolin-2-one by a procedure analogous to that of Example 2 gives 1-(3-aminopropyl)-5-chloro-3-hydroxy-3-phenylindolin-2-one. Cyclodehydration of the 1-(3-aminopropyl)-5-chloro-3-hydroxy-3-phenylindolin-2-one by a procedure analogous to that of Example 3 gives 8-chloro-2,3,4,10-tetrahydro-10-phenylpyrimido [1,2-a] indol-10 -ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 5-chloro-3-phenyl-3-hydroxyindolin-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=CC=CC=C1 | C14H10ClNO2
product | 5-chloro-1-(cyanoethyl)-3-hydroxy-3-phenylindolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCC#N)=O)(C1=CC=CC=C1)O | C17H13ClN2O2
